US07348425B2
To a slurried solution of 2-bromo-3-cyclohexyl-N-[(dimethylamino)sulfonyl]-indole-6-carboxamide (4.3 g, 10 mmol), 4-methoxy-2-formylphenylboronic acid (2.5 g, 14 mmol) and LiCl (11.05 g, 25 mmol) in EtOH/toluene (1:1, 80 mL) was added Pd(PPh3)4 (1.12 g, 1.0 mmol) and then 1M Na2CO3 (aq.) (30 mL, 30 mmol). The reaction solution was flushed with nitrogen and heated at 85° C. for 18 h and cooled to rt. The reaction was diluted with EtOAc (200 mL), washed with 0.5N aqueous HCl (100 mL) and brine (50 mL), dried (MgSO4), filtered and concentrated to yield 11-cyclohexyl-N-[(dimethylamino)sulfonyl]-6-hydroxy-8-methoxy-6H-isoindolo[2,1-a]indole-3-carboxamide which was used without further purification. LCMS: m/e 482 (M−H)−, ret time 1.63 min, column A, 2 minute gradient.

reactant | 2-bromo-3-cyclohexyl-N-[(dimethylamino)sulfonyl]-indole-6-carboxamide | 10 mmol, 4.3 g | BrC=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)NS(=O)(=O)N(C)C | C17H22BrN3O3S
reactant | 4-methoxy-2-formylphenylboronic acid | 14 mmol, 2.5 g | COC1=CC(=C(C=C1)B(O)O)C=O | C8H9BO4
reactant | LiCl | 25 mmol, 11.05 g | [Li+].[Cl-]
reactant | Na2CO3 | 30 mmol, 1M, 30 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOH toluene | 80 mL | CCO.C1(=CC=CC=C1)C
catalyst | Pd(PPh3)4 | 1.0 mmol, 1.12 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 11-cyclohexyl-N-[(dimethylamino)sulfonyl]-6-hydroxy-8-methoxy-6H-isoindolo[2,1-a]indole-3-carboxamide | C1(CCCCC1)C1=C2N(C3=CC(=CC=C13)C(=O)NS(=O)(=O)N(C)C)C(C1=CC(=CC=C12)OC)O | C25H29N3O5S
